US08026261B2
A. Preparation of 3-Benzyloxy-2-hydroxymethyl-1-methyl-6-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one
A 6.00 N sodium hydroxide solution (785 μL, 4.71 mmol) was added to a suspension of 3-hydroxy-2-hydroxymethyl-1-methyl-6-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one (1.08 g, 4.26 mmol) in methanol (5 mL). Benzyl bromide (650 μL, 5.46 mmol) was added to the clear solution, and the resulting solution was heated to reflux for 45 min Some solid had separated out in the solution. Analysis of the reaction mixture using HPLC Method 1 (Example 24) indicated that the starting material was consumed. The reaction mixture was allowed to cool down to room temperature, and the first crop of solid product was collected by suction filtration, and washed with acetonitrile. The title compound was thus obtained as a solid product (1.11 g, 76% yield, HPLC Method 1 (Example 24), RT=12.6 min, HPLC purity (peak percent area): 99% at x=280 nm). 1H NMR (DMSO-d6+D2O) δ ppm: 7.36 (m, 5H), 6.59 (s, 1H), 5.53 (q, J=6.5 Hz, 1H), 5.01 (s, 2H), 4.58 (s, 2H), 3.72 (s, 3H).

reactant | sodium hydroxide | 4.71 mmol, 6.00 N, 785 μL | [OH-].[Na+]
reactant | 3-hydroxy-2-hydroxymethyl-1-methyl-6-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | 4.26 mmol, 1.08 g | OC1=C(N(C(=CC1=O)C(C(F)(F)F)O)C)CO | C9H10F3NO4
reactant | Benzyl bromide | 5.46 mmol, 650 μL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | methanol | 5 mL | CO | CH4O
product | 3-Benzyloxy-2-hydroxymethyl-1-methyl-6-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | 76% yield | C(C1=CC=CC=C1)OC1=C(N(C(=CC1=O)C(C(F)(F)F)O)C)CO | C16H16F3NO4
